US08030499B2
Step 96-1: Synthesis of 3-hydroxy-3-(4-methoxyphenyl)-5-methyl-1,3-dihydro-2H-indol-2-one
With 5.61 g of 4-bromoanisole and 3.23 g of 5-methyl isatin as starting materials, 4.38 g of the title compound (light brown solid) was obtained by a similar method to Step 21-1.

reactant | 4-bromoanisole | 5.61 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 5-methyl isatin | 3.23 g | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
product | 3-hydroxy-3-(4-methoxyphenyl)-5-methyl-1,3-dihydro-2H-indol-2-one | 4.38 g | OC1(C(NC2=CC=C(C=C12)C)=O)C1=CC=C(C=C1)OC | C16H15NO3
